US04695654
To a stirred mixture of 2,2-difluoro-1,4-butanediol (12.97 g, 103 mM), dry pyridine (65 mL) and dichloromethane (200 mL) is slowly added a solution of methanesulfonylchloride (23.6 g) in dichloromethane (50 mL). Stirring is continued overnight. The reaction mixture is washed with 2N HCl (twice), followed by 10% aqueous NaHCl3 until neutral, and then with water. The organic layer is dried (MgSO4) and upon evaporation of the solvents, a slightly yellow oil is obtained. Crystallization is induced by scratching the oil with dry ether, to yield the compound 1,4-bis-methanesulfonyloxy-2,2-difluorobutane as white crystals: 22.3 g (77%).

reactant | 2,2-difluoro-1,4-butanediol | 103 mM, 12.97 g | FC(CO)(CCO)F | C4H8F2O2
reactant | pyridine | 65 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonylchloride | 23.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1,4-bis-methanesulfonyloxy-2,2-difluorobutane | CS(=O)(=O)OCC(CCOS(=O)(=O)C)(F)F | C6H12F2O6S2
